US04065471
2-Chloro-10-propargylphenothiazine
To a solution containing 0.2 mole of butyllithium in 350 ml. of absolute ether (prepared in situ under nitrogen) were added 46.5 g. (0.2 mole) of 2-chlorophenothiazine while the mixture was maintained at -10° C. The reaction mixture was then allowed to stir for forty-five minutes at 0° C. To the resulting solution of 2-chloro-10-phenothiazinyllithium were added 30 g. (0.25 mole) of propargyl bromide in 30 ml. of absolute ether. This reaction mixture was allowed to stir at room temperature overnight. After quenching with dilute hydrochloric acid, the ethereal phase of the reaction mixture was washed with water and dried over anhydrous calcium sulfate. Upon removal of the solvent a semi-solid mass of crude 2-chloro-10-propargylphenothiazine remained. Recrystallized from methanol and from ether-hexane, pure 2-chloro-10-propargylphenothiazine melted at 112.0°-115.0° C. The structure was confirmed by nuclear magnetic resonance spectroscopy.

reactant | butyllithium | 0.2 mole | C(CCC)[Li]
reactant | 2-chlorophenothiazine | 0.2 mole | ClC1=CC=2NC3=CC=CC=C3SC2C=C1 | C12H8ClNS
reactant | 2-chloro-10-phenothiazinyllithium | ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)[Li]
reactant | propargyl bromide | 0.25 mole | C(C#C)Br | C3H3Br
solvent | ether | CCOCC | C4H10O
product | 2-Chloro-10-propargylphenothiazine | ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CC#C | C15H10ClNS
